US07381736B2
(3,4-Dichloro-phenyl)-[4-(4-methanesulfonyl-phenyl)-thiazol-2-yl]-amine was prepared in 78% yield using the procedure described in example 31 from 2-Bromo-1-(4-methanesulfonyl-phenyl)-ethanone and (3,4-Dichloro-phenyl)-thiourea. 1H NMR (300 MHz, DMSO-d6) δ 8.16-7.56 (m, 8H), 3.24 (s, 3H).

reactant | 2-Bromo-1-(4-methanesulfonyl-phenyl)-ethanone | BrCC(=O)C1=CC=C(C=C1)S(=O)(=O)C | C9H9BrO3S
reactant | (3,4-Dichloro-phenyl)-thiourea | ClC=1C=C(C=CC1Cl)NC(=S)N | C7H6Cl2N2S
product | (3,4-Dichloro-phenyl)-[4-(4-methanesulfonyl-phenyl)-thiazol-2-yl]-amine | 78% yield | ClC=1C=C(C=CC1Cl)NC=1SC=C(N1)C1=CC=C(C=C1)S(=O)(=O)C | C16H12Cl2N2O2S2
